data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]C(=O)C.C1CC(=CC2C1CCN2CCS(=O)C3=CC=CC=C3)[NH:10]NC4=CC=CC=C4.O>>[H:20][NH+:10](C1=CC2C(CC1)CCN2CCS(=O)C3=CC=CC=C3)NC4=CC=CC=C4.CC(=O)[O-:21].O 10=20;20,21=21
CC[O-:10].C1=C(C=C(C(=C1)[N+](=O)[O-])F)CC[CH2:20][Br:21]>>CC[O:10][CH2:20]CCC1=CC=C(C(=C1)F)[N+](=O)[O-].[Br-:21] 10=20;20,21=21
[H:20][OH:21].C1=C(C=C(C(=C1Br)O)Br)C[N:10]2C(N=C3C(=C2N)NC(=O)N3C4C(C(C(O4)CO)O)O)[O-].[Br-]>>[H:20][N+:10]1(C(N=C2C(=C1N)NC(=O)N2C3C(C(C(O3)CO)O)O)[O-])CC4=CC(=C(C(=C4)Br)O)Br.[OH-:21].[Br-] 10=20;20,21=21
[H:20][O+:21]=C(CC)CBr.[OH2:10]>>[H:20][OH2+:10].CCC(=[O:21])CBr 10=20;20,21=21
[H:20][O:21]CC1=CC=C(C=C1Cl)Br.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1=C(C=C(C(=C1)C[O-:21])Cl)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
[H:20][CH:21]1CCC[C:22]1=[N+:23]2CCOCC2.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].C1C[CH:21]=[C:22](C1)[N:23]2CCOCC2.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[B:20](F)(F)F.C=[O:10]>>[B-:20]([O+:10]=C)(F)(F)F 10=20,
[H:20][OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.[OH2:21] 10=20;20,21=21
C1CO[C:20](=[O:21])N1.[Cl-:10]>>C1CO[C:20](N1)([O-:21])[Cl:10] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[O+:23][Al-](OC(C)C)(OC(C)C)OC(C)C)CCC2(C1=CCC3C2CCC4(C3CCC4CC(C)C)C)C.CC(C)[O-:10].CC(C)O>>[H:20][O:10]C(C)C.CC(C)CC1CCC2C1(CCC3C2CC=C4C3(CC[C:22](=[CH:21]4)[O:23][Al-](OC(C)C)(OC(C)C)OC(C)C)C)C.CC(C)O 10=20;22,23=23;20,21=21,22
[CH3:20][O:21][P+:22](C)(O)O.C[S-:10]>>C[P:22](=[O:21])(O)O.C[S:10][CH3:20] 10=20;20,21=21,22
[H:20][O+:21](CC1=CC=CC=C1)C(=C2C3=C(CC2(C)C)OC(=C3)C)[O-].CC1=CC(=[N:10]C(=C1)C)C.N#N>>[H:20][N+:10]1=C(C=C(C=C1C)C)C.CC1=CC2=C(O1)CC(C2=C([O-])[O:21]CC3=CC=CC=C3)(C)C.N#N 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CO1)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CO[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CN(C1CC[NH+](CC1C2=CC=C(C=C2)F)C3(CCC(=O)C3)[O-:10])C(=O)N(C)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F>>[H:20][O:10]C1(CCC(=O)C1)[NH+]2CCC(C(C2)C3=CC=C(C=C3)F)N(C)C(=O)N(C)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C1CCC(CC1)NC(=O)C(CC2=CC=CC=C2)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>C1CCC(CC1)NC(=O)C(CC2=CC=CC=C2)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
CCC(C)O[C:20](=[O:21])CC.[OH-:10]>>CCC(C)O[C:20](CC)([OH:10])[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.C[O:10]C1CC2C3CC4=C(C2(CCN3CC5CCC5)C=C1O)C(=C(C=C4)OC)O>>[H:20][O+:10](C)C1CC2C3CC4=C(C2(CCN3CC5CCC5)C=C1O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-:21] 10=20;20,21=21
[Li+:20].CC(C)(C)[Si-:11]1([C:10]2(CC(O1)COCC3=CC=C(C=C3)OC)SCCCS2)(C)C.CC(C)C>>[Li:20][C:10]1(SCCCS1)CC(COCC2=CC=C(C=C2)OC)O[Si:11](C)(C)C(C)(C)C.CC(C)C 10,11=10,20
[Li+:20].C1CCC(CCCC=CC1)C[O-:10].CS(=O)(=O)[O-].[AlH3]>>[Li:20][O:10]CC1CCCCC=CCCC1.CS(=O)(=O)[O-].[AlH3] 10=20,
[H:20][CH:21](C(C(C1=CC2=CCC3(C(C2(CCC1=C)OCOCCOC)CCC3O[Si](C)(C)C(C)(C)C)C)OC(=O)C)OC(=O)C)[O:22][I+:23]4(C5=C(C=CC=C5)C(=O)O4)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)OC([CH:21]=[O:22])C(C1=CC2=CCC3(C(C2(CCC1=C)OCOCCOC)CCC3O[Si](C)(C)C(C)(C)C)C)OC(=O)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(=O)O 10=20;22,23=23;20,21=21,22
[B-](OC(=[O+][Si-:11](C)(C)(C)[C:10](C)(C)[C+:20](CC)C(=O)C)C)(F)(F)F>>[B-](OC(=[O+][Si:11](C)(C)C)C)(F)(F)F.CC[C:20](=[C:10](C)C)C(=O)C 10,11=10,20
[Li:11][C:10]1=CC=CC=C1.CO[C:20](=[O:21])C1CCC2(CC1)OCCO2>>[Li+:11].CO[C:20](C1CCC2(CC1)OCCO2)([C:10]3=CC=CC=C3)[O-:21] 10,11=10,20;20,21=21
CC1=CC[C:20]([N:10]1C2=CC3=C(C=C2)C(=C(O3)C4=CC=CC=C4)I)(C)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=NC=C1.O>>C[C:20]1=[N+:10](C(=CC1)C)C2=CC3=C(C=C2)C(=C(O3)C4=CC=CC=C4)I.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=NC=C1.O 10=20;20,21=21
CC(=CC[C:20](=[O:21])C1=C(C=CC(=C1)Cl)OCC2=CC=CC=C2)[NH:10]C3=CC(=CC=C3)S(=O)(=O)N.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].[OH3+]>>CC1=CC[C:20]([NH+:10]1C2=CC(=CC=C2)S(=O)(=O)N)(C3=C(C=CC(=C3)Cl)OCC4=CC=CC=C4)[O-:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].[OH3+] 10=20;20,21=21
[B-:10]([O+:11](C)C1=CC(=CC=C1)CCC)(Br)(Br)Br>>[B:10](Br)(Br)Br.CCCC1=CC=CC(=C1)[O:11]C 10,11=11
[H:20][O:21]S(=O)(=O)O.CC(=O)OC(=O)CCC(=[O:10])Cl>>[H:20][O+:10]=C(CCC(=O)OC(=O)C)Cl.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.C1=CC2=C(C(=C([N:10]=C2C=C1)Cl)[N+](=O)[O-])OP(=O)(Cl)Cl.[Cl-]>>[H:20][N+:10]1=C2C=CC=CC2=C(C(=C1Cl)[N+](=O)[O-])OP(=O)(Cl)Cl.CC[N:21](CC)CC.[Cl-] 10=20;20,21=21
[H:20][OH2+:21].C1CC[O:10]C(C1)(O)O>>[H:20][O+:10]1CCCCC1(O)O.[OH2:21] 10=20;20,21=21
C1=CC2=C(C=C1)C=C3C(=C2)C(=NC4=C(C=CC=C4)[NH2:10])[C:20]3=[O:21].CC(=O)O.CO.O>>C1=CC2=C(C=C1)C=C3C(=C2)C4=NC5=C(C=CC=C5)[NH2+:10][C:20]34[O-:21].CC(=O)O.CO.O 10=20;20,21=21
[H:20][O+:21]1CCOC1C2=C(C=C3C(=C2)OCO3)Br.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>C1COC([O:21]1)C2=C(C=C3C(=C2)OCO3)Br.[H:20][N+:10]1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
